US07323567B2
b) tert-Butyl [3-(7-amino-4,4-dimethyl-8-nitro-1,3-dioxo-3,4-dihydro-1H-isoquinolin-2-yl)propyl]-[2-(3,4-dimethoxyphenyl)ethyl]carbamate
DIAD (1.92 mL, 9.75 mmol) was slowly added to an ice-cold solution of 7-amino-4,4-dimethyl-8-nitroisoquinoline-1,3(2H,4H)-dione (2.03 g, 8.14 mmol; prepared according to the method described in DE 3410168), tert-butyl [3-hydroxypropyl][2-(3,4-dimethoxyphenyl)ethyl]carbamate (3.31 g, 9.78 mmol), and PPh3 (2.56 g, 9.76 mmol) in THF (40 mL). The reaction mixture was allowed to warm to room temperature and was stirred at this temperature for 16 h. The mixture was concentrated under reduced pressure and the residue was purified by flash chromatography (40-63μ silica gel, hexane:EtOAc 1:1) to give the title compound (4.29 g, 92% yield).

reactant | DIAD | 9.75 mmol, 1.92 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | 7-amino-4,4-dimethyl-8-nitroisoquinoline-1,3(2H,4H)-dione | NC1=CC=C2C(C(NC(C2=C1[N+](=O)[O-])=O)=O)(C)C | C11H11N3O4
reactant | tert-butyl [3-hydroxypropyl][2-(3,4-dimethoxyphenyl)ethyl]carbamate | 9.78 mmol, 3.31 g | OCCCN(C(OC(C)(C)C)=O)CCC1=CC(=C(C=C1)OC)OC | C18H29NO5
reactant | PPh3 | 9.76 mmol, 2.56 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | tert-Butyl [3-(7-amino-4,4-dimethyl-8-nitro-1,3-dioxo-3,4-dihydro-1H-isoquinolin-2-yl)propyl]-[2-(3,4-dimethoxyphenyl)ethyl]carbamate | 4.29 g, 92% yield | NC1=CC=C2C(C(N(C(C2=C1[N+](=O)[O-])=O)CCCN(C(OC(C)(C)C)=O)CCC1=CC(=C(C=C1)OC)OC)=O)(C)C | C29H38N4O8
